US07718675B2
b) tert-Butyl {3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methyl-1(S)-(R)-oxiranylpentyl}carbamate
3.87 g of trimethylsulphoxonium iodide and 1.98 g of potassium tert-butoxide are stirred under high vacuum overnight, admixed with 24 ml of tetrahydrofuran and subsequently cooled to 0° C. A solution of 4.00 g of tert-butyl {1(S)-formyl-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]4-methylpentyl}carbamate [CAS 172900-83-3] in 24 ml of dimethyl sulphoxide is added dropwise. After 2 hours, the reaction mixture is partitioned between water and tert-butyl methyl ether and the aqueous phase is extracted once more with tert-butyl methyl ether (2×). The combined organic phases are washed successively with water (3×) and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue first by means of flash chromatography (SiO2 60F) and then by means of crystallization (hexane) as white crystals. Rf=0.43 (1:1 EtOAc-heptane); Rt=21.90 (gradient II); m.p. 59-65° C.

reactant | trimethylsulphoxonium iodide | 3.87 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butoxide | 1.98 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
reactant | tert-butyl {1(S)-formyl-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]4-methylpentyl}carbamate | 4.00 g | C(=O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C24H39NO6
solvent | dimethyl sulphoxide | 24 ml | CS(=O)C | C2H6OS
product | tert-Butyl {3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methyl-1(S)-(R)-oxiranylpentyl}carbamate | COC1=C(C=C(C[C@@H](C[C@@H]([C@H]2OC2)NC(OC(C)(C)C)=O)C(C)C)C=C1)OCCCOC | C25H41NO6
